US08871782B2
A suspension of 2-ethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-7-ol (1.0 g, 3.0 mmol) and cesium carbonate (1.49 g, 4.57 mmol) in DMF was stirred for 15 minutes; 1-bromopinacolone (0.6 mL, 4.5 mmol) was added dropwise. The reaction was heated at 65° C. and stirred for 20 hours, and then the solvent was removed under reduced pressure. The residue was dissolved in dichloromethane, and the resulting solution was washed sequentially with water (3×) and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 1.3 g of 1-[2-ethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-7-yloxy]-3,3-dimethylbutan-2-one as an orange solid.

reactant | 2-ethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-7-ol | 3.0 mmol, 1.0 g | C(C)C=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CCOC1=CC=CC=C1 | C20H19N3O2
reactant | cesium carbonate | 4.57 mmol, 1.49 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromopinacolone | 4.5 mmol, 0.6 mL | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[2-ethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-7-yloxy]-3,3-dimethylbutan-2-one | 1.3 g | C(C)C=1N(C2=C(C=NC=3C=C(C=CC23)OCC(C(C)(C)C)=O)N1)CCOC1=CC=CC=C1 | C26H29N3O3
